US07456283B2
Preparation of N-(3-amino-4-methyl-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide
Alternatively a solution of N-(4-methyl-3-nitro-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide (60 g, 163 mmol) in ethanol 90% (300 ml) at room temperature under an atmosphere of nitrogen is treated sequentially with platinum (5%) on carbon (6.0 g) and potassium formate (68.5 g, 814 mmol). The resulting suspension is then heated at 80° C. for a period of 16 hrs. The reaction mixture is filtrated at 70° C. over a pad of Celite. Ethanol 90% (150 ml) and water (150 ml) are used to rinse the reactor. Ethanol is removed from the combined filtrates by distillation in vacuo at an external temperature 60° C. The crude product separates from the aqueous concentrate as an oil during the distillation, crystallizes upon subsequent cooling to 23° C. within 2 hrs and is filtered of with suction, washed with ethanol (200 ml) and dried in vacuo. Yield: 55 g of the title compound, 99% of theory, as yellowish crystals. (HPLC: 98.0% area).

reactant | N-(4-methyl-3-nitro-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide | 163 mmol, 60 g | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)[N+](=O)[O-] | C20H24N4O3
reactant | potassium formate | 814 mmol, 68.5 g | C(=O)[O-].[K+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | platinum | [Pt] | Pt
product | N-(3-amino-4-methyl-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide | NC=1C=C(C=CC1C)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C20H26N4O
